US07494956B2
N-[1-cyano-1-methyl-2-(5-cyano-2-trifluoromethylphenoxy)-ethyl]-4-trifluoromethoxybenzamide
In 5 ml of dried tetrahydrofurane, 651 mg N-[1-cyano-2-hydroxy-1-methylethyl]-4-trifluoromethoxybenzamide and 427 mg 3-fluoro-4-trifluoromethylbenzonitrile are dissolved and 63 mg of sodium hydride are added under stirring at 0°. The reaction mixture is stirred for 20 h at room temperature, then quenched with 5 ml of water and finally diluted with 15 ml of brine. The crude product is extracted with 3×10 ml of ethylacetate, the combined organic phases washed with brine, dried over magnesium sulphate, filtered and evaporated. The residue is purified by flash chromatography to yield the title compound as white crystals of m. p. 75-8°.

reactant | N-[1-cyano-2-hydroxy-1-methylethyl]-4-trifluoromethoxybenzamide | 651 mg | C(#N)C(CO)(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C12H11F3N2O3
reactant | 3-fluoro-4-trifluoromethylbenzonitrile | 427 mg | FC=1C=C(C#N)C=CC1C(F)(F)F | C8H3F4N
reactant | sodium hydride | 63 mg | [H-].[Na+]
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | N-[1-cyano-1-methyl-2-(5-cyano-2-trifluoromethylphenoxy)-ethyl]-4-trifluoromethoxybenzamide | C(#N)C(COC1=C(C=CC(=C1)C#N)C(F)(F)F)(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C20H13F6N3O3
